US03997557
A solution of 60.9 g (0.31 mole) of phenacyl bromide in 150 ml. of toluene is added dropwise with stirring to a refluxing solution of 46.6 g of 1-pyrrolidino-1-cyclohexene in 150 ml. of toluene. The mixture is heated under reflux for 2 hours, diluted with 150 ml. of water, refluxed for 3 hours and cooled. The layers are separated and the aqueous phase is extracted with ether. The organic solution is dried and concentrated to an oil. The oil is distilled to give an orange liquid which solidifies. The resulting solid is recrystallized from an ether petroleum mixture to give 2-phenacylcyclohexanone as tan crystals, m.p. 44°-45° C.

reactant | phenacyl bromide | 0.31 mole, 60.9 g | C(C(=O)C1=CC=CC=C1)Br | C8H7BrO
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | 1-pyrrolidino-1-cyclohexene | 46.6 g | N1(CCCC1)C1=CCCCC1 | C10H17N
reactant | water | O | H2O
product | 2-phenacylcyclohexanone | C(C(=O)C1=CC=CC=C1)C1C(CCCC1)=O | C14H16O2
